2160-10-26 08:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2160-10-25**] 11:45 PM. Read pending.
   >  No OSH clx data.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2160-10-25**] 02:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2160-10-26**] 12:30 AM
   Haloperidol (Haldol) - [**2160-10-26**] 05:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-10-26**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.5
   HR: 90 (80 - 97) bpm
   BP: 120/70(81) {115/50(68) - 152/80(92)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    437 mL
                                                                    120 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    317 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    550 mL
   Urine:
                                                                  1,235 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -798 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Skin:  Warm, diffuse echymosis over right flanka s per [**10-25**] note
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   183 K/uL
   106 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.6 mEq/L
   17 mg/dL
   104 mEq/L
   140 mEq/L
   28.2 %
   11.0 K/uL
        [image002.jpg]
                             [**2160-10-26**]  04:03 AM
   WBC
   11.0
   Hct
   28.2
   Plt
   183
   Cr
   1.1
   Glucose
   106
   Other labs: ALT / AST:57/92, Alk Phos / T Bili:177/2.3, Albumin:3.5
   g/dL, LDH:581 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   62 y/o M discharged from trauma service 2 days ago after being admitted
   with EtOH related fall, intracranial bleed, and 4min VF Arrest, found
   to have increasing confusion and lethargy at rehab in setting ofever
   and ? of RLL infiltrate.
   >Fever: Work-up includes urine, r/o pna (HCAP vs aspiration)  given
   concern on prior radiograph for pneumonic process. No indwelling lines
   remain. He has a normal wbc without leukocytosis and without left
   shift.   Will plan to cover empircally (ceftriazone and azithro)
   ceftriaxone will also cover UTI (clx data negative at this point). Will
   plan to complete a brief course (5 days of Abx)
   > Altered Mental Status: differential includes delirium from febrile
   illness  with superimposed changes associated with increasing SDH,  or
   increasing edema from right parenchymal bleed on a back drop of EtOH
   abuse, but do not suspect withdrawl (given he has been in a health care
   setting) .  At present he is oriented. Per discussion with his partner
   ([**Name (NI) 299**]) he is not significantly diff in MS from where he was on his
   original discharge.
   - q4h neuro checks
   - prn haldol (follow QT)
   - Appreciate neurosurg recs: f/u read on MRI. ? White matter changes
   and ? central pontine myelinosis.
   >Subarachnoid / Subdural Hemorrhage:
   - MRI
   - cont dilantin for seizure prophylaxis
   > Hypertension: losartan and norvasc. Holding diuretics for now.
    > Scapular fracture: no change in current management per trauma.
    Additional issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-10-25**] 07:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2160-10-27 09:43:00 Physician Attending Progress Note
Chief Complaint: Altered mental status.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Remains with altered mental status worse at night with ? sundowning.
   EEG pending.
 EKG - At [**2160-10-26**] 09:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2160-10-26**] 02:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-10-26**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2160-10-27**] 08:50 AM
   Other medications:
   chlorhexidine, HISS, colace,pantoprazole, losartan 50, amlodipine,
   folic acid, thiamine, mvi, heparins/c, ceftriaxone 1g q24, azithromycin
   250 q24.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-10-27**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 81 (79 - 92) bpm
   BP: 112/54(67) {88/48(56) - 136/73(94)} mmHg
   RR: 21 (16 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,780 mL
                                                                    370 mL
   PO:
                                                                    480 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,300 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    780 mL
   Urine:
                                                                  1,105 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    675 mL
                                                                   -410 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): [**2158**], [**Hospital6 **], Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   165 K/uL
   103 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.5 mEq/L
   17 mg/dL
   108 mEq/L
   141 mEq/L
   26.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2160-10-26**]  04:03 AM
                             [**2160-10-27**]  03:43 AM
   WBC
   11.0
   9.7
   Hct
   28.2
   26.2
   Plt
   183
   165
   Cr
   1.1
   1.0
   Glucose
   106
   103
   Other labs: ALT / AST:46/60, Alk Phos / T Bili:192/1.9, Albumin:3.2
   g/dL, LDH:334 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR with ? infiltrate RLL vs atelectasis
   Microbiology: culture negative to date.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM): stable, waxing and [**Doctor Last Name 282**] per
   his providers. On empiric therapy for CAP with no strong evidence for
   this. On empiric therapy for UTI, should obtain cultures from OSH.
   Fevers have resolved may also be related to his head bleed. EEG
   pending. Continue to monitor mental status. ? underlying
   werneke-korsakov, on thiamine.
 FRACTURE, OTHER: continue management.
 PNEUMONIA, OTHER: on ceftrixone, azithromycin
 SUBARACHNOID HEMORRHAGE (SAH): continue [**Last Name (LF) 8458**], [**First Name3 (LF) 24**] neurosurgery
   non operative.
   ICU Care
   Nutrition:
   Comments: speech and swallow evaluation.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2160-10-27**] 03:51 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   CRITICAL CARE STAFF ADDENDUM
   I saw and examined Mr. [**Known lastname 8452**] with Dr. [**First Name (STitle) 8379**], whose note above
   reflects my input.  62-year-old man recently discharged from trauama
   service after a fall c/b ICH/SAH and 4 min VF arrest [**2160-10-16**].
   Reportedly had increased confusion at rehab, though our discussion with
   wife on Saturday suggests this may be closer to recent baseline.
   Transferred to outside hospital where he was febrile; treated with
   CTX/azithro.  On exam here, waxing and [**Doctor Last Name 282**] mental status. Right now,
   alert and interactive but somewhat disoriented.  Confabulates.  Course
   breath sounds.  Soft abdomen.
   Labs, meds, and imaging reviewed.
   For encephalopathy / altered mental status, we will continue neurologic
   checks at the interval recommended by  neurology and neurosurgery.
   Further imaging of intracranial hemorrhage at their direction, a well.
   We are treated possible infections (UTI and ?pneumonia).  Providing
   thiamine since he is high risk for underlying alcohol-related
   encephalopathy.  Conservative treatment for scapular fracture.  Other
   issues per Dr. [**First Name (STitle) 8379**] and ICU team note today.
   To floor (on trauma service).
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 906**], MD
   on:[**2160-10-27**] 10:41 ------